US05958930
To a 100 mL three neck round bottom flask was added 3,4,5-trichloroaniline (1.96 g), potassium carbonate (1.66 g), acetonitrile (25 mL) and iodomethane (1.42 g). The reaction mixture was stirred at 40° C. for 3 days under nitrogen in the dark. The reaction mixture was then quenched with ethyl acetate (50 mL) and filtered. The residue was washed with ethyl acetate (3×20 mL). The filtrate and the washings were combined and washed with water (3×30 mL). The organic layer was then filtered through anhydrous MgSO4 and evaporated under reduced pressure. The residue was dissolved in a minimum amount of ethyl acetate/hexane 1:12 and the solution was placed on a wet column of silica gel (80 g) and eluted with ethyl acetate/hexane 300 mL (1:12), 500 mL (1:8) to afford 0.88 g of N-methyl-3,4,5-trichloraniline (42%) as a white solid. The product was used directly for the condensation without characterization. To a 100 mL three neck round bottom flask was added anhydrous DMSO (5 mL), N-methyl-3,4,5-trichloroaniline (0.88 g) crude compound 117 (0.20 g) and anhydrous potassium carbonate (0.56 g). The reaction mixture was stirred at 45° C. for 24 h and then quenched with distilled water (15 mL). The resulting suspension was stirred at room temperature for 4 h and filtered. The residue was extracted with MeOH (100 mL) several times and the extracts which showed a major spot of the product on TLC were pooled and mixed with silica gel (2 g). The mixture was evaporated under reduced pressure and dried in vacuo. The residue was ground into fine powder and poured on top of a dry column of silica gel (40 g). The column was eluted with 3% MeOH in CHCl3. Fractions corresponding to a single spot of the product were pooled and evaporated. The residue was washed with ether and air dried to afford 0.06 g (16% for two steps) of compound 432 as a light yellow solid.

reactant | 3,4,5-trichloroaniline | 1.96 g | ClC=1C=C(N)C=C(C1Cl)Cl | C6H4Cl3N
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.42 g | IC | CH3I
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | N-methyl-3,4,5-trichloraniline | 0.88 g, 42% | CNC1=CC(=C(C(=C1)Cl)Cl)Cl | C7H6Cl3N
